US05736534
4-(4-Chloro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 2, this product was prepared in 92% yield from 4-chloro-indoline (2 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 172°-179° C. (dec); LC-MS: 342 (MH+); anal. RP18-HPLC RT: 4.60 min.).

reactant | 4-chloro-indoline | 2 eq. | ClC1=C2CCNC2=CC=C1 | C8H8ClN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(4-Chloro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline | 92% yield | ClC1=C2CCN(C2=CC=C1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C18H16ClN3O2
